US05554620
To a solution of 3-amino-4-methylbenzoic acid methyl ester (25 g, 0.15 mol) in 1 L of acetic acid cooled to 0° C. was added a solution of NaNO2 (12.5 g, 0.182 mol) in 50 ml of water and the mixture was warmed to room temperature with stirring over 4 hours. The solution was concentrated in vacuo, the residue was triturated with water, the solid was filtered and washed with water and hexane to afford 19 g (71.6%) of methyl indazole-6carboxylate.

reactant | 3-amino-4-methylbenzoic acid methyl ester | 0.15 mol, 25 g | COC(C1=CC(=C(C=C1)C)N)=O | C9H11NO2
reactant | NaNO2 | 0.182 mol, 12.5 g | N(=O)[O-].[Na+]
solvent | acetic acid | 1 L | C(C)(=O)O | C2H4O2
solvent | water | 50 ml | O | H2O
product | methyl indazole-6carboxylate | 19 g, 71.6% | N1N=CC2=CC=C(C=C12)C(=O)OC | C9H8N2O2
